US05476954
(4S,5R)-3-tert-Butoxycarbonyl-2,2-diethyl-4-phenyl-5-oxazolidinecarboxylic acid may be obtained under the conditions described in Example 6 for the preparation of (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic acid. Thus, starting with 2.3 g of ethyl (4S,5R)-3-tert-butoxycarbonyl-2,2-diethyl-4-phenyl-5-oxazolidinecarboxylate, 1.7 g of (4S,5R)-3-tert-butoxycarbonyl-2,2-diethyl-4-phenyl-5-oxazolidinecarboxylic acid is obtained in the form of white crystals, melting point 185° C.

reactant | (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)(C)C | C17H23NO5
reactant | ethyl (4S,5R)-3-tert-butoxycarbonyl-2,2-diethyl-4-phenyl-5-oxazolidinecarboxylate | 2.3 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)OCC)(CC)CC | C21H31NO5
product | (4S,5R)-3-tert-butoxycarbonyl-2,2-diethyl-4-phenyl-5-oxazolidinecarboxylic acid | 1.7 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)(CC)CC | C19H27NO5
